US08217032B2
[2-(2,6-Difluoro-phenyl)-6-methoxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone
Charge a flask with trifluoromethanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester (2.0 g, 3.7 mmol), 2,6-difluorophenyl boronic acid (1.17 g, 7.4 mmol), tetrakis(triphenylphosphine)palladium (0) (855 mg, 0.74 mmol) and potassium phosphate (4.7 g, 22.2 mmol) add 100 mL, of dry DMF and heat under nitrogen at 100° C. for two hours. Cool the reaction and filter. Purify on an SCX column eluting with 2N ammonia/methanol. Purify further on a silica gel column eluting with a gradient of 0-10% methanol/methylene chloride. The yield is 1.5 g (81%): 1H-NMR (CDCl3, 400 MHz) δ 7.90 (d, J=8.4 Hz, 1H); 7.63 (d, J=8.4 Hz, 1H); 7.62 (d, J=9.2 Hz, 2H); 7.39 (d, J=8.4 Hz, 1H); 7.23 (d, J=2.8 Hz, 1H); 7.18-7.08 (m, 2H); 6.78 (d, J=10.4 Hz, 2H); 6.74 (s, 2H); 4.11-4.08 (m, 2H); 3.95 (s, 3H); 2.75 (t, J=6.4 Hz, 2H); 2.49-2.49 (m, 4H); 1.63-1.58 (m, 4H); 1.47-1.44 (m, 2H).

reactant | trifluoromethanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester | 3.7 mmol, 2.0 g | COC=1C=C2C=CC(=C(C2=CC1)C(C1=CC=C(C=C1)OCCN1CCCCC1)=O)OS(=O)(=O)C(F)(F)F | C26H26F3NO6S
reactant | 2,6-difluorophenyl boronic acid | 7.4 mmol, 1.17 g | FC1=C(C(=CC=C1)F)B(O)O | C6H5BF2O2
reactant | potassium phosphate | 22.2 mmol, 4.7 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.74 mmol, 855 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | CN(C)C=O | C3H7NO
product | [2-(2,6-Difluoro-phenyl)-6-methoxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | FC1=C(C(=CC=C1)F)C1=C(C2=CC=C(C=C2C=C1)OC)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1 | C31H29F2NO3
